US04681883
2-[5-[3-(Piperidinomethyl)phenoxy]pentylamino]benzthiazole
5-(3-(Piperidinomethyl)phenoxy]pentylamine (0.8 g) and 2-chlorobenzthiazole (0.53 g) were fused at 140° C. for 3 hours. The cooled residue was subjected to medium pressure column chromatography on silica using ethyl acetate as eluant to give the title compound as an oil. This was converted to 2-[5-[3-piperidinomethyl)phenoxy]pentylamino]benzthiazole dihydrochloride (0.18 g), m.p. 140°-145° C. (recrystallised from ethanol/ether).

reactant | 5-(3-(Piperidinomethyl)phenoxy]pentylamine | 0.8 g | N1(CCCCC1)CC=1C=C(OCCCCCN)C=CC1 | C17H28N2O
reactant | 2-chlorobenzthiazole | 0.53 g | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[5-[3-(Piperidinomethyl)phenoxy]pentylamino]benzthiazole | N1(CCCCC1)CC=1C=C(OCCCCCNC=2SC3=C(N2)C=CC=C3)C=CC1 | C24H31N3OS
